US09303023B2
To a solution of 4-nitro-1H-pyrazole (6.09 g, 52.20 mmol) in MeCN (80 mL), Cs2CO3 (18.71 g, 57.42 mmol) and 2-bromoethanol (4.59 mL, 62.64 mmol) was added. The resulting mixture was refluxed (80° C.) for 3.5 h, then the reaction mixture was allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM and the filtrate was concentrated in vacuo. The residue was partitionned between water and EtOAc, the org. layer was separated and the aq. layer was extracted with EtOAc (1×). The combined org. layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Purification was performed by FC (EtOAc/hept 7:3 to EtOAc/MeOH 9:1) to obtain 2-(4-nitro-1H-pyrazol-1-yl)ethanol as a white solid. LC-MS conditions A: tR=0.44 min, [M+H]+=no ionization.

reactant | 4-nitro-1H-pyrazole | 52.20 mmol, 6.09 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | Cs2CO3 | 57.42 mmol, 18.71 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethanol | 62.64 mmol, 4.59 mL | BrCCO | C2H5BrO
solvent | MeCN | 80 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-nitro-1H-pyrazol-1-yl)ethanol | [N+](=O)([O-])C=1C=NN(C1)CCO | C5H7N3O3
